* source ADJUSTABLEVOLTAGEREGULATOR2
V_V2         0 N15128 DC 5V AC 0 0
V_V1         N17510 0 DC 12 AC 0 0
R_R6         N15138 N15128  30k TC=0,0 
R_R5         0 N15138  10k TC=0,0 
X_U2         N15138 N15076 N15048 N15128 N15076 LM675
X_U1         N15048 N15455 N15483 LM317
D_D1         N15483 N15048 D1N4001 
D_D6         N15455 N15483 D1N4001 
R_R7         N15455 N15483  250 TC=0,0 
C_C2         N15076 N15483  1u  TC=0,0 
C_C1         N15076 N15455  1u  TC=0,0 
R_R8         N15076 N15455  {RVAL} TC=0,0 
R_R9         0 N17517  7Meg TC=0,0 
R_R10         N17510 N17517  5Meg TC=0,0 
X_U4         N17517 N15048 N17510 0 N15048 LM675
.PARAM  rval=2k
